US05245051
7-[3-[[(6,7-Dihydro-1,3-dioxolo[4,5-g][1,4]benzodioxin-6-yl)methyl]amino]propoxy]-chroman-4-one
7-[3-[[(6,7-Dihydro-1,3-dioxolo[4,5-g][1,4]benzodioxin-6-yl)methyl]amino]propoxy]chromen-4-one hydrochloride hemihydrate (0.3 g, 0.8 mmole), prepared in Example 1 above, was dissolved in 100 ml of 1:3 (v/v) ethanol-methanol and 10% Palladium on Carbon (0.1 g) was added. The mixture was hydrogenated on a Parr apparatus for 24 hours and 2 psi of hydrogen was absorbed. After the catalyst was removed by filteration, the filtrate was concentrated in vacuum and the residue crystallized from isopropanol. The solid product was then recrystallized from methanol with the addition of ether to give 80 mg of title compound as a yellow solid hydrochloride salt, m.p. 218°-220° C.

reactant | 7-[3-[[(6,7-Dihydro-1,3-dioxolo[4,5-g][1,4]benzodioxin-6-yl)methyl]amino]propoxy]chromen-4-one hydrochloride hemihydrate | 0.8 mmole, 0.3 g | O.Cl.O1COC2=CC3=C(OCC(O3)CNCCCOC3=CC=C4C(C=COC4=C3)=O)C=C21.O2COC1=CC3=C(OCC(O3)CNCCCOC3=CC=C4C(C=COC4=C3)=O)C=C12.Cl
solvent | ethanol methanol | 100 ml | C(C)O.CO
catalyst | Palladium on Carbon | 0.1 g | [Pd] | Pd
product | 7-[3-[[(6,7-Dihydro-1,3-dioxolo[4,5-g][1,4]benzodioxin-6-yl)methyl]amino]propoxy]-chroman-4-one | 80 mg | O1COC2=CC3=C(OCC(O3)CNCCCOC3=CC=C4C(CCOC4=C3)=O)C=C21 | C22H23NO7
